US05364871
Concentrated hydrochloric acid (72.4 ml) was added slowly to a suspension of 4-(2-acetylaminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole (6.58 g) in ethanol (280 ml). The mixture was refluxed for 2 hours. The resulting precipitate was collected by filtration. Recrystallization from a mixture of methanol and water afforded 4-(2-aminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride (6.98 g).

reactant | hydrochloric acid | 72.4 ml | Cl | ClH
reactant | 4-(2-acetylaminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole | 6.58 g | C(C)(=O)NCC=1SC=C(N1)C=1N=C(SC1)N=C(N)N | C10H12N6OS2
solvent | ethanol | 280 ml | C(C)O | C2H6O
product | 4-(2-aminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride | 6.98 g | Cl.Cl.NCC=1SC=C(N1)C=1N=C(SC1)N=C(N)N | InChI=1S/C8H10N6S2.2ClH/c9-1-6-12-4(2-15-6)5-3-16-8(13-5)14-7(10)11;;/h2-3H,1,9H2,(H4,10,11,13,14);2*1H
